US08242125B2
103-A. N-(3-(isopropylcarbamoyl)-5-(trifluoromethyl)phenyl)-5-(5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-yloxy)-1H-indole-1-carboxamide
To a solution of 4-(1H-indol-5-yloxy)-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester (0.16 g, 0.437 mmol) in 4 mL of THF at 0° C., NaH (0.105 g, 2.62 mmol) is added. After stirring for 45 min a solution of phenyl 3-(isopropylcarbamoyl)-5-(trifluoromethyl)phenylcarbamate, Example 13-B, (0.224 g, 0.611 mmol) in 2 mL of THF and 1 mL of DMF is added dropwise. The resulting mixture is stirred for 4 h before being partitioned between EtOAc and cold H2O. The aq layer is extracted further with EtOAc and the combined organic layers are washed with saturated aqueous NaHCO3, brine and dried over Na2SO4. Following concentration the residue is separated by FCC (heptane/EtOAc). The resulting product (0.23 g, 0.360 mmol) is then treated with 70 mL of 50% TFA in DCM at rt for 1 h. After concentration the residue is separated by semi-prep HPLC (10-100% CAN/H2O with 0.1% NH4OH) to provide the title compound. MS (ESI) m/z 539.2 (M+1); 1H NMR (400 MHz, DMSO-d6) δ ppm 10.49 (br. S., 1H), 8.54 (d, J=7.8 Hz, 1H), 8.38-8.46 (m, 2H), 8.25-8.32 (m, 2H), 8.15 (d, J=3.8 Hz, 1H), 7.98 (s, 1H), 7.46 (d, J=2.3 Hz, 1H), 7.13 (dd, J=9.0, 2.4 Hz, 1H), 4.07-4.21 (m, J=13.9, 6.9, 6.7, 6.7 Hz, 2H), 3.85 (s, 2H), 3.07 (t, J=5.8 Hz, 2H), 2.75 (t, J=5.7 Hz, 2H), 1.20 (d, J=6.6 Hz, 6H).

reactant | 4-(1H-indol-5-yloxy)-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester | 0.437 mmol, 0.16 g | C(C)(C)(C)OC(=O)N1CC=2N=CN=C(C2CC1)OC=1C=C2C=CNC2=CC1 | C20H22N4O3
reactant | NaH | 2.62 mmol, 0.105 g | [H-].[Na+]
reactant | phenyl 3-(isopropylcarbamoyl)-5-(trifluoromethyl)phenylcarbamate | C(C)(C)NC(=O)C=1C=C(C=C(C1)C(F)(F)F)NC(OC1=CC=CC=C1)=O | C18H17F3N2O3
reactant | TFA | 70 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(3-(isopropylcarbamoyl)-5-(trifluoromethyl)phenyl)-5-(5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-yloxy)-1H-indole-1-carboxamide | C(C)(C)NC(=O)C=1C=C(C=C(C1)C(F)(F)F)NC(=O)N1C=CC2=CC(=CC=C12)OC=1C2=C(N=CN1)CNCC2 | C27H25F3N6O3
